US04654348
EXAMPLE 33: 2-Methyl-3-n-hexadecyloxy-7-n-butoxycarbonylmethylthio-pyrazolo[4,3-d]pyrimidine
2-Methyl-3-hydroxy-7-n-butoxycarbonylmethylthiopyrazolo[4,3-d]pyrimidine and n-hexadecyl p-toluenesulfonate were reacted and treated in the same manner as in Synthesis 2 of Example 1 to obtain the desired compound.

reactant | 2-Methyl-3-hydroxy-7-n-butoxycarbonylmethylthiopyrazolo[4,3-d]pyrimidine | CN1N=C2C(N=CN=C2SCC(=O)OCCCC)=C1O | C12H16N4O3S
reactant | n-hexadecyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCCCCCCCC)C | C23H40O3S
product | 2-Methyl-3-n-hexadecyloxy-7-n-butoxycarbonylmethylthio-pyrazolo[4,3-d]pyrimidine | Yield: 75% | CN1N=C2C(N=CN=C2SCC(=O)OCCCC)=C1OCCCCCCCCCCCCCCCC | C28H48N4O3S
